US05103013
Isopropyl 2-(1,3-dithietan-2-ylidene)-2-[N-(4-chlorophenyl)carbamoyl]acetate
A solution of isopropyl 2-(1,3-dithietan-2-ylidene)-2-carboxyacetate (10 g) in methylene chloride (100 ml) was cooled to -10° C. and thereto phosphorous pentachloride (8.9 g) was added portionwise and then stirred for 1 hr. To the reaction mixture pyridine (13.8 ml) and 4-chloroaniline (5.45 g) were added and stirred for 2 hrs. The mixture was washed with dil-HCl, 10% aqueous sodium hydroxide solution and water and then evaporated. The residue was purified with ethyl acetate to afford the titled compound as a white solid. (8.9 g, 61%).

reactant | isopropyl 2-(1,3-dithietan-2-ylidene)-2-carboxyacetate | 10 g | S1C(SC1)=C(C(=O)OC(C)C)C(=O)O | C8H10O4S2
reactant | phosphorous pentachloride | 8.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 13.8 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-chloroaniline | 5.45 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Isopropyl 2-(1,3-dithietan-2-ylidene)-2-[N-(4-chlorophenyl)carbamoyl]acetate | S1C(SC1)=C(C(=O)OC(C)C)C(NC1=CC=C(C=C1)Cl)=O | C14H14ClNO3S2
